US07572846B2
Lauryl methacrylate;
Acrylated castor oil; Acrylated ricinoleic acid; Methacrylated ricinoleic acid; Soya Bean Oil; Unsaturated fatty acids, e.g. Oleic acid, tallow fatty acid; Unsaturated fatty alcohols, e.g. Oleyl alcohol, pentadeca-12-ene-1-ol.; Oleamide; Triglycerides, e.g. tall oil, ting oil; Ethylenic unsaturated urethanes; Acrylic unsaturated urethanes; Air drying short oil alkyds; Alkyl and Aryl Esters of maleic anhydride, singly or in combination.

reactant | Oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | Oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | pentadeca-12-ene-1-ol | C(CCCCCCCCCCC=CCC)O | C15H30O
reactant | Oleamide | C(CCCCCCC\C=C/CCCCCCCC)(=O)N | C18H35NO
product | Lauryl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
